US07432289B2
N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-2-(3.5dimethylpiperidin-1-yl)isonicotinamide
A solution of 2-chloro-N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)isonicotinamide (50 mg, 0.12 mmol) in 3,5-dimethylpiperidine (1 ml) was heated at 120° C. for 18 h in a sealed tube. The reaction was concentrated under vacuum, the residue purified by preparative HPLC, to give, after evaporation of the solvents under vacuum N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-2-(3,5-dimethylpiperidin-1-yl)isonicotinamide. NMR; δH [2H6] —DMSO 10.29,(1H, s), 8.62,(1H, t), 8.21,(1H, d), 7.93,(2H, d), 7.70,(1H, dd), 7.65,(1H, d), 7.44,(2H, d), 7.30,(1H, d), 7.20,(1H, s), 6.98,(1H, d), 4.35,(2H, m), 3.16,(2H, t), 2.30,(2H, t), 2.20,(3H, s), 1.78,(1H, m), 1.57,(2H, m), 1.04,(1H, m), 0.91,(6H, d), 0.80,(1 H, q), 0.43,(2H, m), 0.24,(2H, m). LCMS: retention time 3.61 min, MH+497.

reactant | 2-chloro-N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)isonicotinamide | 0.12 mmol, 50 mg | ClC=1C=C(C(=O)NC=2C=C(C(=CC2)C)C2=CC=C(C=C2)C(=O)NCC2CC2)C=CN1 | C24H22ClN3O2
reactant | 3,5-dimethylpiperidine | 1 ml | CC1CNCC(C1)C | C7H15N
product | N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-2-(3.5dimethylpiperidin-1-yl)isonicotinamide | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)NC(C1=CC(=NC=C1)N1CC(CC(C1)C)C)=O | C31H36N4O2
